US06710078B2
According to the procedure of Method A, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 1,2-ethanedithiol to provide 5-[2-[(2-mercaptoethyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one: 1H NMR (CDCl3) δ1.63 (m, 1H) and overlapping 1.65 and 1.68 (singlets, 3H), 2.47-2.80 (m, 4H), 3.07-3.25 (m, 2H), 4.47 (m, 1H), 5.37 and 5.39 (singlets, 1H), 7.05-7.18 (m, 2H), 7.25-7.45 (m, 6H); MS (HR-EI) m/z 376.0605 (M+ calcd. for C19H20O2S3 376.0626).

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | 1,2-ethanedithiol | C(CS)S | C2H6S2
product | 5-[2-[(2-mercaptoethyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one | SCCSC(CC1=CC(C(O1)(C1=CC=CC=C1)C)=O)C1=CSC=C1 | C19H20O2S3
